Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pseudomeningocele
 
Major Surgical or Invasive Procedure:
___ RIGHT VP SHUNT 

 
History of Present Illness:
___ yo female pt known to Neurosurgery who is s/p Chiari 
decompression ___.  She presents from OSH with worsening HA 
and N/V and a growing fluid collection at the surgical site.  
Her previous symptoms of BUE paresthesias are resolved.  Outside 
imaging reveals a large pseudomeningocele.  She denies any 
weakness or unsteady gait.

 
Past Medical History:
___ s/p decompression, HTN, HLD
 
Social History:
___
Family History:
NC
 
Physical Exam:
ON ADMISSION:

O: T: 99.6 BP: 150/89   HR:80    R:16      O2Sats:99% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils:  ___, equal, reactive   EOMs: intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin

On Discharge: 
___: Alert and oriented x3. PERRL 3-2mm. Nystagmus to the 
left. Face symmetrical. Tongue midline. No pronator drift. Moves 
all extremities full strength. Large occipital collection at 
prior surgical site stable. Sutures intact with no redness, 
swelling or drainage. 

 
Pertinent Results:
CHEST (PRE-OP PA & LAT) Study Date of ___ 4:26 ___ 
IMPRESSION:  
No acute cardiopulmonary abnormalities 

CT HEAD W/O CONTRAST Study Date of ___ 5:01 ___ 
IMPRESSION:  
1. Status post VP shunt catheter placement.  Previously seen 
ventricular 
dilatation has nearly resolved..  No new intraparenchymal 
hemorrhage or 
territorial infarct. 
2. Status post suboccipital craniectomy with interval decrease 
in the 
extracranial fluid collection now measuring up to 5.2 cm, 
previously 8 cm, 
consistent with pseudomeningocele. 

CT HEAD W/O CONTRAST Study Date of ___ 3:15 ___ 
IMPRESSION:  
1. Right frontal ventriculostomy catheter in stable position 
with interval 
decrease in right lateral ventricle size.  Right ventricle is 
slit-like, 
clinically correlate for over shunting.  Tiny focus 
intraparenchymal 
hemorrhage along the lower margin of catheter tract.  Near 
complete effacement of extra-axial spaces supratentorially and 
infratentorially.  Foramen magnum is patent. 
2. Interval increase in the extracranial fluid collection along 
the 
suboccipital craniectomy site, with findings consistent with a 
pseudomeningocele. 

MR ___ W/O CONTRAST Study Date of ___ 4:35 ___ 
IMPRESSION:   
1. Postsurgical changes related to suboccipital craniectomy and 
Chiari 
malformation decompression.  Cystic structure within the 
resection bed 
communicating with the posterior fossa and upper cervical spine 
likely 
represents a postoperative pseudomeningocele. 
2. Interval decrease in size of a spinal cord syrinx and spinal 
cord expansion when compared with the preoperative imaging. 
3. No evidence of significant spinal canal or neural foraminal 
stenosis or 
cord compression. 
  

 
Brief Hospital Course:
Ms. ___ is a ___ year old female who is s/p chiari 
decompression ___. She presented to the ED for complaints of 
headache, nausea, vomiting and was found to have a fluid 
collection at the surgical site. The collection was tapped and 
CSF culture was sent to the lab. The patient was admitted to the 
___ and was scheduled to undergo VPS placement on ___. 

# Hydrocephalus: Patient underwent right VP shunt placement on 
___, 120cc was aspirated from occipital collection. Her 
operative course was uncomplicated and she was extubated in the 
OR. A ___ Strata valve was placed and set at 1.0. She 
returned to the ___ post-operatively. Patient complained of LUE 
numbness and decreased dexterity in L hand. CT showed a very 
small area of hemorrhage in the thalamus along the catheter and 
was otherwise stable. Her symptoms improved and she was full 
strength in her L hand. She was transferred to the floor. An MRI 
___ was obtained and the shunt was adjusted back to 1.0 
after her imaging. She was discharged in stable condition with 
follow-up with Dr. ___ in 1 month with a NCHCT. 

#Urinary retention: Patient required straight cath x1 
post-operatively for acute urinary retention. She voided without 
difficulty the remained her of her hospital stay. She was 
started on Cipro for bacteria in her urine. This was d/c'd on 
discharge at the patient was asymptomatic and the UA was 
negative. 

 
Medications on Admission:
Amlodipine 10mg QD, chlorthalidone 25 mg QD, citalopram 30 mg 
QD, lorazepam 0.5 mg PRN anxiety
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed 4GM acetaminophen in 24 hours  
2.  TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
Do not drive while taking this medication. Hold for sedation.  
RX *tramadol 50 mg 1 tablet(s) by mouth q8h PRN Disp #*15 Tablet 
Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  LORazepam 0.5 mg PO Q4H:PRN anxiety  
5.  Methocarbamol 500 mg PO TID  
6.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pseudomeningocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
VP shunt 

Surgery

 
_x0095_You had a VP shunt placed for hydrocephalus and assistance 
with drainage of a pseudomeningocele. Your incision should be 
kept dry until sutures are removed.
_x0095_Your shunt is a ___ Strata Valve which is programmable. 
This will need to be readjusted after all MRIs or exposure to 
large magnets.  Your shunt is programmed to 1.0.  . 
_x0095_Please keep your incision dry until your sutures are removed. 
_x0095_You may shower at this time but keep your incision dry.
_x0095_It is best to keep your incision open to air but it is ok to 
cover it when outside. 
_x0095_Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
_x0095_We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
_x0095_You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
_x0095_No driving while taking any narcotic or sedating medication. 
_x0095_If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
_x0095_No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
_x0095_Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
_x0095_You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
_x0095_You may experience headaches and incisional pain. 
_x0095_You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
_x0095_You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
_x0095_Feeling more tired or restlessness is also common.
_x0095_Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
_x0095_Severe pain, swelling, redness or drainage from the incision 
site. 
_x0095_Fever greater than 101.5 degrees Fahrenheit
_x0095_Nausea and/or vomiting
_x0095_Extreme sleepiness and not being able to stay awake
_x0095_Severe headaches not relieved by pain relievers
_x0095_Seizures
_x0095_Any new problems with your vision or ability to speak
_x0095_Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
_x0095_Sudden numbness or weakness in the face, arm, or leg
_x0095_Sudden confusion or trouble speaking or understanding
_x0095_Sudden trouble walking, dizziness, or loss of balance or 
coordination
_x0095_Sudden severe headaches with no known reason

_x0095_       Your Cipro was stopped at time of discharge. Your UA was 
negative. If you have urinary pain, frequency, or foul odor 
please call your PCP.

 
Followup Instructions:
___